US05889183
Tauryl chloride hydrochloride and sodium azide were reacted with one another in a ratio of 1:1 in water. For this purpose, the calculated stoichiometric amount of sodium azide was dissolved in water and the solution was cooled to 5° C. Tauryl chloride hydrochloride was added while stirring and the reaction mixture was stirred for 15 min. By stripping off the water, a solid mixture of crystalline sodium chloride and taurylazide hydrochloride was obtained.

reactant | Tauryl chloride hydrochloride | Cl.S(=O)(=O)(CCN)Cl
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | O | H2O
product | taurylazide hydrochloride | Cl.S(=O)(=O)(CCN)N=[N+]=[N-] | InChI=1S/C2H6N4O2S.ClH/c3-1-2-9(7,8)6-5-4;/h1-3H2;1H
